US05710159
Oxalyl Chloride (4.01 ml; 46 mmol) in 90 ml dichloromethane was cooled at -78° C. in a dry ice-acetone bath. Dimethylsulfoxide (4.26 ml; 60 mmol) in 22 ml dichloromethane was then added dropwise and the mixture stirred at -78° C. for 30 minutes. N-(4-Hydroxybutyl)phthalimide (9.108 g; 41.5 mmol) in 45 ml dichloromethane was then added and the mixture stirred in the -78° C. bath for 45 minutes. The mixture was then warmed in a 0° C. ice bath and stirred for one hour. Triethylamine (23 g; 230 mmol) in 23 ml dichloromethane was then added and the stirred for an additional 30 minutes. The mixture was worked up by washing with water. The organic layer was separated, dried (MgSO4), filtered, concentrated and the residue purified by flash chromatography; 200 g silica gel column using 1:3 ethyl acetate:Hexane to provide N-(4-oxobutyl)phthalimide as a white solid (7.469 g; 82.8% yield). 1 H NMR (300 MHz, CDCl3): 2.023 (m, 2H); 2.546 (dt, 2H, J1 =7.324 Hz, J2 =1.098 Hz); 3.749 (t, 2H, J=6.958 Hz); 7.734 (m, 2H); 7.845 (m, 2H); 9.777 (t, 1H, J=1.099 Hz).

reactant | Oxalyl Chloride | 46 mmol, 4.01 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Dimethylsulfoxide | 60 mmol, 4.26 ml | CS(=O)C | C2H6OS
reactant | N-(4-Hydroxybutyl)phthalimide | 41.5 mmol, 9.108 g | OCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H13NO3
reactant | Triethylamine | 230 mmol, 23 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 22 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 23 ml | ClCCl | CH2Cl2
product | N-(4-oxobutyl)phthalimide | 82.8% yield | O=CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H11NO3
